2132-11-11 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -loaded with keppra
   -11 PM labs showed elevated sodium of 146
   -UOP in evening was only 90 ccs/3 hours
   -given hypernatremia and low urine output, got 2L of 1/2NS at 150
   ccs/hr
   -Around 2 AM began to seize with epileptiform activity seen on EEG.
   Got 4 mg of Ativan with only mild resolution in epileptiform activity;
   -Acyclovir, ceftriaxone started and vancomycin continued.
   -LP performed and cxs, cytology, CSF labs sent
   Allergies:
   Codeine
   Abdominal pain;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Morphine
   Abdominal pain;
   Last dose of Antibiotics:
   Acyclovir - [**2132-11-11**] 04:56 AM
   Ceftriaxone - [**2132-11-11**] 04:56 AM
   Micafungin - [**2132-11-11**] 05:22 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2132-11-11**] 02:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-11**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 87 (79 - 126) bpm
   BP: 100/58(69) {100/53(66) - 123/83(88)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    505 mL
                                                                  1,269 mL
   PO:
             TF:
   IVF:
                                                                    505 mL
                                                                  1,269 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                  1,095 mL
   Urine:
                                                                    100 mL
                                                                    295 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                    255 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.52/36/89.[**Numeric Identifier 433**]/27/5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   173 K/uL
   9.7 g/dL
   105 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.9 mEq/L
   5 mg/dL
   111 mEq/L
   146 mEq/L
   30.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2132-11-10**]  11:41 PM
                             [**2132-11-11**]  01:54 AM
   WBC
   9.9
   Hct
   30.3
   Plt
   173
   Cr
   0.5
   TCO2
   30
   Glucose
   105
   Other labs: Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: normal head CT
   CXR ([**11-4**]) - clear lungs
   Microbiology: urine:
   PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
         ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML..
   Assessment and Plan
   Assessment and Plan:
   40 YO F with history of HTN, EtOH pancreatitis s/p CCY, alcoholic
   hepatitis, admitted for weakness and presumed peripheral neuropathy
   secondary to malnutrition who now has unresponsiveness and concern for
   nonconvulsive status.
   .
   # Altered mental status: Seizures vs. toxic/metabolic. Nonconvulsive
   status most likely given observed rhythmic mov'ts that per neuro
   correspond to EEG pattern and cease after ativan and keppra.
   Metabolic/infectious possibilities: UTI/urosepsis, hepatic
   encephalopathy (elevated ammonia, though no concern for this per liver
   team), drug effect/withdrawal (outside window for DTs, not enough
   standing benzos to explain withdrawal seizures). Other infectious
   possibilities include C.dif given large volume of diarrhea.
   - appreciate neuro recs
   - keppra 2000IV then 1000mg IV bid
   - blood, urine cx
   - Cidif
   - Cont. vanco/amoxicillin for UTI
   - lactulose for ?hepatic encephalopathy
   - correct hyponatremia with free water
   .
   # Weakness: Likely multifactorial etiology including chronic anemia,
   malnutrition and possibly alcohol consumption.
   - IVF o/n
   - Encourage po intake once awake/alert
   - Nutrition consult, calorie count as appropriate
   - Replete vitamin deficiencies as below.
   .
   # Hepatitis/hyperbilirubinemia: Appears to be resolving alcoholic
   hepatitis with baseline NASH. [**Doctor First Name **], AMA, [**Last Name (un) 3056**] negative. Hepatitis A and
   C serologies negative, Hep B surface antigen positive. Also with a
   history of a gastric bypass operation with severe nutritional
   deficiency that corroborates a diagnosis of NASH.
   - Continue Lactulose, but monitor fluid status closely
   - Ursodial [**Hospital1 **]
   .
   # Nutritional Deficiency: On last admission noted to have atrophic
   macroglossia, angular cheilitis, a macrocytic anemia and a vitamin K
   responsive elevated INR.
   - Supplement Thiamine, Folate, Zinc, B-12 and a Multivitamin
   - Recheck INR
   .
   # Alcoholism: On last admission, Nutrition, SW and primary team
   provided counseling on this issue, but patient deferred formal
   assistance post-discharge.
   - SW Addictions when appropriate
   - Monitor of withdrawal
   .
   # s/p Roux-en-Y: With history of malnutrition.
   - Supplement diet as above
   .
   # Asthma: stable, patient states she takes advair intermittently
   .
   # Foot Pain: Continue home vicodin q6 prn
   .
   FEN: IVF o/n, replete electrolytes PRN, regular low salt diet
   .
   Prophylaxis: Pneumatic boots; PPI
   .
   Access: PIV
   .
   Code: DNR/DNI - discussed with floor team who confirmed status when she
   was alert and oriented x 3, also discussed this with her children who
   confirm that she told them that she would not want cardiopulm.
   resuscitation.
   .
   Communication: Vogul [**Telephone/Fax (1) 8578**] (husband)
   .
   PPx: Heparin SC
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-11-11**] 03:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-11-14 13:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Seizure
   Altered Mental Status-Encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2132-11-13**] 11:22 AM
   History obtained from Medical records
   Patient unable to provide history: Paralytics in place
   Allergies:
   Codeine
   Abdominal pain;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Morphine
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2132-11-11**] 09:23 PM
   Acyclovir - [**2132-11-13**] 12:00 AM
   Ampicillin - [**2132-11-14**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Cisatracurium - 0.15 mg/Kg/hour
   Other ICU medications:
   Cisatracurium - [**2132-11-14**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-14**] 01:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 88 (86 - 108) bpm
   BP: 116/65(85) {101/48(65) - 129/75(96)} mmHg
   RR: 17 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 85 kg
   Height: 69 Inch
             Total In:
                                                                  3,128 mL
                                                                  1,777 mL
   PO:
             TF:
                                                                    350 mL
                                                                    450 mL
   IVF:
                                                                  2,778 mL
                                                                  1,328 mL
   Blood products:
   Total out:
                                                                  1,082 mL
                                                                    850 mL
   Urine:
                                                                    632 mL
                                                                    550 mL
   NG:
   Stool:
                                                                    450 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,046 mL
                                                                    927 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: Neuromusc Block
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.39/45/142/27/2
   Ve: 9 L/min
   PaO2 / FiO2: 473
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed, Pupils bilterally reactive but sluggish
   Labs / Radiology
   8.2 g/dL
   185 K/uL
   166 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   8 mg/dL
   111 mEq/L
   145 mEq/L
   25.5 %
   13.4 K/uL
         [image002.jpg]
                             [**2132-11-13**]  12:43 PM
                             [**2132-11-13**]  03:31 PM
                             [**2132-11-13**]  06:41 PM
                             [**2132-11-13**]  09:01 PM
                             [**2132-11-13**]  09:27 PM
                             [**2132-11-13**]  11:12 PM
                             [**2132-11-14**]  01:04 AM
                             [**2132-11-14**]  03:14 AM
                             [**2132-11-14**]  03:27 AM
                             [**2132-11-14**]  04:35 AM
   WBC
   13.4
   13.4
   Hct
   23.5
   25.5
   Plt
   196
   185
   Cr
   0.6
   0.6
   TCO2
   27
   25
   24
   27
   29
   29
   30
   28
   Glucose
   120
   166
   Other labs: PT / PTT / INR:16.1/41.2/1.4, ALT / AST:37/60, Alk Phos / T
   Bili:137/2.7, Lactic Acid:1.3 mmol/L, Albumin:2.1 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: Amonia-325
   Imaging: CXR-
   U/S
   Microbiology: SPutum-Sparse respiratory flora
   Assessment and Plan
   40 yo female with history of cirrhosis now with progressive and
   significant weakness which has been refractory to nutritional
   supplementation and had re-presentation with UTI but then found
   unresponsive on [**11-10**].  Hospital course notable for epileptiform
   activity on EEG and treatment with benzodiazepines did contribute to
   resolution.  She, in the SICU has had Keppra loading and EEG monitoring
   with suggestion of resolution of seizure activity with Keppra + Ativan.
   Now--patient has persistent alteration in mental status and with
   unresponsiveness felt to be in part related to hepatic encephalopathy,
   UTI, residual effects of medications, and patient with respiratory
   alkalosis noted and patient now paralyzed across the night.
   1)Respiratory Failure-
   -Will D/C paralytics
   -Will move to PSV
   -Barrier to extubation is mental status
   -If unable to effectively maintain mental status, will have to consider
   trach and chronic vent support but do have hope for mental status to
   return.
   -Will move to wean fentanyl and propofol to off today
   -Patient does have reassuring head CT in the setting of respiratory
   alkalosis
   2)Seizure Disorder-
   -Keppra
   -EEG D/C
   -Will call neurology prior to intervention with benzodiazepines
   3)Altered Mental Status/Encephalopathy-Nutritional deficiency being
   treated and ongoing treatment for seizures as well
this may well be
   multifactorial at this time.  We will continue to work with leading
   possibility of protein load in the setting of refeeding driving
   encephalopathy.
   -Niacin
   -Lactulose
   -MVI/Folate/B12/IRon/Zinc/B6
   -L-Carnitine
   -Will hold benzo
s for now to allow better understanding of acute
   events
   4)Cirrhosis-
   -Lactulose
   -Supervised feedings with tube feeds
   ICU Care
   Nutrition: Tube feeds and supplements as above
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-11-11**] 03:03 AM
   PICC Line - [**2132-11-11**] 11:00 AM
   Arterial Line - [**2132-11-11**] 04:00 PM
   20 Gauge - [**2132-11-11**] 04:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 44

2132-11-15 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2132-11-14**] 06:51 PM
   - paralysis and sedation were weaned but she did not wake up.
   - Pt overbreathing vent.  Taking 1 Liter Breaths.  MV 10-12 L.
   - Adjusted vent settings to maintain pH < 7.6
   - son went through her calendar and found numerous appts at the [**Hospital 8649**]
   - history from family, 5-6 days PTA all her hair started falling out.
   Allergies:
   Codeine
   Abdominal pain;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Morphine
   Abdominal pain;
   Last dose of Antibiotics:
   Acyclovir - [**2132-11-13**] 12:00 AM
   Ampicillin - [**2132-11-15**] 06:11 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-11-14**] 10:45 PM
   Fentanyl - [**2132-11-14**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-15**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 84 (79 - 97) bpm
   BP: 123/59(80) {86/45(60) - 143/72(95)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 85 kg
   Height: 69 Inch
             Total In:
                                                                  4,523 mL
                                                                    913 mL
   PO:
             TF:
                                                                  1,103 mL
                                                                    347 mL
   IVF:
                                                                  3,320 mL
                                                                    466 mL
   Blood products:
   Total out:
                                                                  2,610 mL
                                                                  1,185 mL
   Urine:
                                                                  2,010 mL
                                                                  1,185 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,913 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 850 (850 - 950) mL
   PS : 0 cmH2O
   RR (Set): 22
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 20
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.56/29/146/26/5
   Ve: 12.1 L/min
   PaO2 / FiO2: 487
   Physical Examination
   Cardiovascular: Gen: minimally repsonsive to pain, not responsive to
   command
   CV: RRR, no murmur
   Lungs: CTAB
   Abd: soft,  ND, ABS
   Ext: 1+ edema bilaterally
   Labs / Radiology
   160 K/uL
   7.5 g/dL
   104 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   7 mg/dL
   116 mEq/L
   151 mEq/L
   23.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2132-11-14**]  01:27 PM
                             [**2132-11-14**]  03:53 PM
                             [**2132-11-14**]  06:10 PM
                             [**2132-11-14**]  07:39 PM
                             [**2132-11-14**]  09:12 PM
                             [**2132-11-14**]  11:06 PM
                            [**2132-11-15**]  12:05 AM
                            [**2132-11-15**]  03:02 AM
                            [**2132-11-15**]  03:22 AM
                            [**2132-11-15**]  06:04 AM
   WBC
   11.5
   Hct
   23.2
   Plt
   160
   Cr
   0.5
   TCO2
   28
   23
   24
   27
   28
   24
   28
   28
   27
   Glucose
   78
   104
   Other labs: PT / PTT / INR:16.1/49.5/1.4, ALT / AST:29/51, Alk Phos / T
   Bili:132/2.5, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:240 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Imaging: Abd u/s with doppler: Normal portal venous, hepatic venous,
   and hepatic arterial flow.
   Microbiology: Sputum [**10-13**] -   no growth
   Blood cultures negative to date
   [**11-5**] -UCx - Proteus and enterococcus
   [**11-14**] - Ucx pending
   Assessment and Plan
 .H/O HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   Ms. [**Known lastname 8573**] is a 40 YO F with history of NASH cirrhosis, s/p Roux en Y
   gastric bypass in [**2126**], recent alcoholic hepatitis/pancreatitis, recent
   admission [**9-1**] -[**9-8**] for severe malnutrition/vitamin deficiency thoght
   [**3-10**] periphearl neuropathy who was readmitted to [**Doctor Last Name **]-[**Doctor Last Name **] with c/o
   progressive weakness and falls at home who developed seizures and
   unresponsiveness.
   .
   # Seizures/altered mental status - Unclear etiology, although currently
   hepatic encephalopathy is at the top of the differential, possibly
   worsened by  UTI,  as well as glucose and protein load with initiation
   of tube feeds.  No organic cause on head mri/ct and no history of
   seizure.  She has received numerous doses of ativan during her seizure
   activity, and given her liver failure, it may still not be cleared.
   Toxin from glue from hair piece is also a rare possibility.  She has
   not had any seizures since [**11-10**] and has been continued on keppra.
   Neurology service also started vitamin replacement given that in severe
   deficiencies can contribute to encephalopathy.   Paralysis has been
   discontiued, although she continues to be sedated to reduce respiratory
   alkylosis.
   - continue keppra 1000mg IV bid
   - UTI treated, f/u repeat urine cultures
   - lactulose and rifaximin started for hepatic encephalopathy
   - continue thiamine, folate, cobalamin, pyridoxime, MTV, niacin, zinc,
   carnitine repleation pending levels (nutrition consult)
   -west neurology consult service will continue to follow
   -page West consult service or [**First Name8 (NamePattern2) 1807**] [**Last Name (NamePattern1) 4217**] (epilepsy attending) if any
   concern for recurrant seizures -> do this before giving any ativan.
   -wean sedation
   .
   # H/o malignancy - Pt reported to have numerous appts and DF.  On last
   admission had atrophic macroglossia, angular cheilitis, a macrocytic
   anemia, which may be [**3-10**] to chemotherapy.   She also has sudden
   complete allopeica requiring a hair replacement.  Unclear what this
   history is as pt has not communicated this information to her family.
   - Obtain records from [**Hospital3 2843**] regarding her appt visits and
   possible tx
   - consider hematologic malignancy or chemotherapy related illness.
   - LP if considering leptomeningeal disease
   # Rising white count -
   - holding off on paracentisis given low ascitic volume.  Consider SBP
   if spikes a temperature
   - Check sputum for VAP
   - f/u Urine culture
   # Anemia
 Hct 23.2 today.  Pt has h/o chronic anemia.   She was
   bolused yesterday for transient hypotension.  [**Month (only) 11**] be dilutional.  Hct
   has been hovering between 23-25 since admission.   No evidence of
   bleeding.  Goal to maintain Hct > 21.
   # Hypernatremia
 Na = 151 today.  Started on tube feeding, start free
   water boluses and follow PM lytes.
   #Respiratory alkalosis: appears to be of central origin, not
   compensatory.  Most likely cause is hepatic encephalopathy, central
   process, related to malignancy or side effect of chemotherapy.   Also
   on differential is PE, however it does not explain her mental status,
   and therefore less likely.
   -wean sedatives
   -serial ABG's
   -lactulose/rifaximin for hepatic encephalopathy
   .
   #Alcoholic hepatitis/cirrhosis:  Appears to be resolving alcoholic
   hepatitis with baseline NASH. [**Doctor First Name **], AMA, [**Last Name (un) 3056**] negative. Hepatitis A and
   C serologies negative, Hep B surface antigen positive. Also with a
   history of a gastric bypass operation with severe nutritional
   deficiency.
   - Continue Lactulose
   - Ursodial [**Hospital1 **]
   - Consider paracenteisis if febrile
   -appreciate liver recs
   - on gastric bypass tube feeds/liver tube feeds
   .
   # Nutritional Deficiency, s/p roux en y gastric bypass with alcoholism:
   On last admission noted to have atrophic
   macroglossia, angular cheilitis, a macrocytic anemia and a vitamin K
   responsive elevated INR.
   - Supplement Thiamine, Folate, Zinc, B-12 and a Multivitamin
   -vitamin levels pending
   - nutrition recommended Isosource to max of 40/hr, given she is
   currently on propofol
   .
   # Asthma: stable, patient states she takes advair intermittently at
   home.  No evidence of bronchospasm currently.
   .
   FEN: on tube feeds, replete electroytes prn
   .
   Prophylaxis: Pneumatic boots; PPI, heparin sq
   .
   Access: PICC placed [**11-12**], Aline, PIV
   .
   Code: FULL CODE
   .
   Communication: Faily Spokesperson/first contact [**Name (NI) **] [**Name (NI) 8650**]
   [**Telephone/Fax (1) 8651**]; Decision makers Husband and Grandmother
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2132-11-11**] 11:00 AM
   Arterial Line - [**2132-11-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-11-15 10:13:00 Physician Attending Progress Note
Chief Complaint: Repiratory Failure, Hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to have respiratory alkalosis when sedation lightened
   24 Hour Events:
 ULTRASOUND - At [**2132-11-14**] 06:51 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Codeine
   Abdominal pain;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Morphine
   Abdominal pain;
   Last dose of Antibiotics:
   Acyclovir - [**2132-11-13**] 12:00 AM
   Ampicillin - [**2132-11-15**] 06:11 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-11-14**] 10:45 PM
   Fentanyl - [**2132-11-14**] 10:45 PM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical vebntialtion
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-11-15**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 84 (79 - 97) bpm
   BP: 123/59(80) {86/45(60) - 143/72(95)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 85 kg
   Height: 69 Inch
             Total In:
                                                                  4,523 mL
                                                                  1,001 mL
   PO:
             TF:
                                                                  1,103 mL
                                                                    347 mL
   IVF:
                                                                  3,320 mL
                                                                    554 mL
   Blood products:
   Total out:
                                                                  2,610 mL
                                                                  1,465 mL
   Urine:
                                                                  2,010 mL
                                                                  1,465 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,913 mL
                                                                   -464 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 850 (850 - 950) mL
   PS : 0 cmH2O
   RR (Set): 22
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 20
   PIP: 7 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.57/26/164/26/3
   Ve: 11.5 L/min
   PaO2 / FiO2: 547
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: pupils not reactive, but intermittently with other
   providers
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   160 K/uL
   104 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   7 mg/dL
   116 mEq/L
   151 mEq/L
   23.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2132-11-14**]  03:53 PM
                             [**2132-11-14**]  06:10 PM
                             [**2132-11-14**]  07:39 PM
                             [**2132-11-14**]  09:12 PM
                             [**2132-11-14**]  11:06 PM
                            [**2132-11-15**]  12:05 AM
                            [**2132-11-15**]  03:02 AM
                            [**2132-11-15**]  03:22 AM
                            [**2132-11-15**]  06:04 AM
                            [**2132-11-15**]  09:32 AM
   WBC
   11.5
   Hct
   23.2
   Plt
   160
   Cr
   0.5
   TCO2
   23
   24
   27
   28
   24
   28
   28
   27
   25
   Glucose
   78
   104
   Other labs: PT / PTT / INR:16.1/49.5/1.4, ALT / AST:29/51, Alk Phos / T
   Bili:132/2.5, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:13.0 %,
   Mono:0.0 %, Eos:1.0 %, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL,
   LDH:240 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 .H/O HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   40 yo female with history of cirrhosis now with progressive weakness,
   malnutrition, now with obtubation/encephalopathy, unexplained severe
   respiratory alkalosis
   1)Respiratory Failure: Now off paralytics.  Continues to have
   respiratory alkalosis
   2)Seizure Disorder- no actual convincing evidence for ongoing szs.
   Cont Keppra
   3)Altered Mental Status/Encephalopathy-Unclear etiology --> continue
   vitamin/carnitine repletion.  Cont lactulose
   4) Hypernatremia: FH20 boluses
   Remainder of iisues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2132-11-11**] 11:00 AM
   Arterial Line - [**2132-11-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2132-11-16 04:42:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 8573**] is a 40 YO F with history of NASH
   cirrhosis, s/p Roux en Y gastric bypass in [**2126**], recent alcoholic
   hepatitis/pancreatitis, recent admission [**9-1**] -[**9-8**] for severe
   malnutrition/vitamin deficiency thoght [**3-10**] periphearl neuropathy who
   was readmitted to [**Doctor Last Name **]-[**Doctor Last Name **] with c/o progressive weakness and falls
   at home who developed seizures and unresponsiveness.
   24 Hour Events:
   -continuing ampicillin.
   -[**Hospital3 2843**] records accessed - she apparently has no history of visits
   there.
   -PM lytes - sodium decreased from 151 to 149.  Free water flushes
   increased from 200 to 250.
   -Evening ABG much improved - 7.44/33/156/23 with decreased minute
   ventilation.
   -Later in the night, her minute ventilation decreased significantly
   with not further change in sedation. - ABG 7.08/82/122
   -Was then changed to AC, all sedation taken off.  Not clear why her
   minute ventilation decreased over that time.
   Allergies:
   Codeine
   Abdominal pain;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Morphine
   Abdominal pain;
   Last dose of Antibiotics:
   Ampicillin - [**2132-11-16**] 04:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-11-15**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2132-11-16**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-16**] 04:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 102 (75 - 102) bpm
   BP: 107/59(77) {91/50(67) - 148/81(110)} mmHg
   RR: 24 (7 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 85 kg
   Height: 69 Inch
             Total In:
                                                                  3,252 mL
                                                                    822 mL
   PO:
             TF:
                                                                  1,325 mL
                                                                    246 mL
   IVF:
                                                                  1,447 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  3,965 mL
                                                                  1,400 mL
   Urine:
                                                                  3,090 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -713 mL
                                                                   -578 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 413 (413 - 749) mL
   PS : 0 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: Unstable Airway, No Spon Resp
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.22/56/152/25/-5
   Ve: 9.7 L/min
   PaO2 / FiO2: 507
   Physical Examination
   Somnolent, unresponsive to sternal rub.
   Pupils non-reactive, now off all sedation.
   Lungs with good air movement bilaterally, clear to anterior fields.
   RRR, no audible murmurs.
   Abdomen soft, non-distended, +BS
   2+ pedal pulses.
   Labs / Radiology
   182 K/uL
   8.4 g/dL
   176 mg/dL
   0.6 mg/dL
   25 mEq/L
   5.1 mEq/L
   7 mg/dL
   116 mEq/L
   149 mEq/L
   27.8 %
   18.7 K/uL
        [image002.jpg]
                            [**2132-11-15**]  12:05 AM
                            [**2132-11-15**]  03:02 AM
                            [**2132-11-15**]  03:22 AM
                            [**2132-11-15**]  06:04 AM
                            [**2132-11-15**]  09:32 AM
                            [**2132-11-15**]  06:41 PM
                            [**2132-11-15**]  09:27 PM
                            [**2132-11-16**]  02:48 AM
                            [**2132-11-16**]  02:57 AM
                            [**2132-11-16**]  03:27 AM
   WBC
   11.5
   18.7
   Hct
   23.2
   27.8
   Plt
   160
   182
   Cr
   0.5
   0.6
   0.6
   TCO2
   28
   28
   27
   25
   23
   26
   24
   Glucose
   104
   130
   176
   Other labs: PT / PTT / INR:15.1/40.4/1.3, ALT / AST:39/79, Alk Phos / T
   Bili:171/2.3, Differential-Neuts:80.7 %, Band:0.0 %, Lymph:13.0 %,
   Mono:4.9 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL,
   LDH:323 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   Ms. [**Known lastname 8573**] is a 40 YO F with history of NASH cirrhosis, s/p Roux en Y
   gastric bypass in [**2126**], recent alcoholic hepatitis/pancreatitis, recent
   admission [**9-1**] -[**9-8**] for severe malnutrition/vitamin deficiency thoght
   [**3-10**] periphearl neuropathy who was readmitted to [**Doctor Last Name **]-[**Doctor Last Name **] with c/o
   progressive weakness and falls at home who developed seizures and
   unresponsiveness.
   .
   # Seizures/altered mental status - Unclear etiology, although currently
   hepatic encephalopathy is at the top of the differential, possibly
   worsened by  UTI,  as well as glucose and protein load with initiation
   of tube feeds.  No organic cause on head mri/ct and no history of
   seizure.  She has received numerous doses of ativan during her seizure
   activity, and given her liver failure, it may still not be cleared.
   She has not had any seizures since [**11-10**] and has been continued on
   keppra.  Neurology service also started vitamin replacement given that
   in severe deficiencies can contribute to encephalopathy.   Paralysis
   has been discontinued, had been sedated in attempt to reduce
   respiratory alkalosis.  Now off sedation.
   - continue keppra 1000mg IV bid
   - UTI treated, f/u repeat urine cultures
   - lactulose and rifaximin for hepatic encephalopathy
   - continue thiamine, folate, cobalamin, pyridoxime, MTV, niacin, zinc,
   carnitine repleation pending levels (nutrition consult)
   -west neurology consult service will continue to follow
   -page West consult service or [**First Name8 (NamePattern2) 1807**] [**Last Name (NamePattern1) 4217**] (epilepsy attending) if any
   concern for recurrant seizures -> do this before giving any ativan.
   -now off sedation.
   .
   # Possible H/o malignancy - Pt reported to have had appointments at
   [**Hospital3 2843**], per family.  [**Hospital3 2843**] records accessed - showing no
   record of visits there.
   #Increased urine output
 sent for urine Na and osm today.
   # Rising white count - increased to 18.7 today.
   - holding off on paracentisis given low ascitic volume.  Consider SBP
   if spikes a temperature
   - Check sputum for VAP
   - f/u Urine culture
   # Anemia
 Hct increased to 27.8 today.  Pt has h/o chronic anemia.
   Hct  has been hovering between 23-25 since admission.   No evidence of
   bleeding.  Goal to maintain Hct > 21.
   # Hypernatremia
 Na = 149 again this morning.  Have been given free
   water boluses - will continue free water, follow lytes.
   #Respiratory acidosis: new development overnight - had been having
   persistent respiratory alkalosis despite sedation, then yesterday
   evening with no change in sedation her minute ventilation decreased
   significantly.  Most likely cause is hepatic encephalopathy, central
   process.
   -changed from CPAP to AC.
   -now off sedatives.
   -serial ABG's.
   -continue lactulose/rifaximin for hepatic encephalopathy.
   .
   #Alcoholic hepatitis/cirrhosis:  Appears to be resolving alcoholic
   hepatitis with baseline NASH. [**Doctor First Name **], AMA, [**Last Name (un) 3056**] negative. Hepatitis A and
   C serologies negative, Hep B surface antigen positive. Also with a
   history of a gastric bypass operation with severe nutritional
   deficiency.
   - Continue Lactulose
   - Ursodiol [**Hospital1 **]
   - Consider paracenteisis if febrile
   -appreciate liver recs
   - on gastric bypass tube feeds/liver tube feeds
   .
   # Nutritional Deficiency, s/p roux en y gastric bypass with alcoholism:
   On last admission noted to have atrophic
   macroglossia, angular cheilitis, a macrocytic anemia and a vitamin K
   responsive elevated INR.
   - Supplement Thiamine, Folate, Zinc, B-12 and a Multivitamin
   -vitamin levels pending
   - nutrition recommended Isosource to max of 40/hr, given she is
   currently on propofol
   .
   # Asthma: stable, patient states she takes advair intermittently at
   home.  No evidence of bronchospasm currently.
   .
   FEN: on tube feeds, replete electroytes prn
   .
   Prophylaxis: Pneumatic boots; PPI, heparin sq
   .
   Access: PICC placed [**11-12**], Aline, PIV
   .
   Code: FULL CODE
   .
   Communication: Faily Spokesperson/first contact [**Name (NI) **] [**Name (NI) 8650**]
   [**Telephone/Fax (1) 8651**]; Decision makers Husband and Grandmother
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Replete ([**2-8**]) - [**2132-11-16**] 03:12 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-11-11**] 11:00 AM
   Arterial Line - [**2132-11-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2132-11-16 08:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Malnutrition
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   RSBI 98 this AM
   24 Hour Events:
   Metabolic alkalosis started to reverse to a respiratory acidosis
   yesterday --> put on A/C
   Increased urine output over last several hours --> up to 400cc/hr
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Abdominal pain;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Morphine
   Abdominal pain;
   Last dose of Antibiotics:
   Ampicillin - [**2132-11-16**] 04:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-11-15**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2132-11-16**] 12:29 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-11-16**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 97 (75 - 102) bpm
   BP: 119/65(86) {91/50(67) - 148/81(110)} mmHg
   RR: 27 (7 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 85 kg
   Height: 69 Inch
             Total In:
                                                                  3,252 mL
                                                                  1,289 mL
   PO:
             TF:
                                                                  1,325 mL
                                                                    472 mL
   IVF:
                                                                  1,447 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  3,965 mL
                                                                  4,110 mL
   Urine:
                                                                  3,090 mL
                                                                  4,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -713 mL
                                                                 -2,821 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 413 (413 - 749) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 98
   RSBI Deferred: Unstable Airway, No Spon Resp
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.39/39/158/25/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 527
   Physical Examination
   General Appearance: No acute distress, intubated
   Eyes / Conjunctiva: pupils not reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, not
   responsive to noxious stimuli
   Labs / Radiology
   8.4 g/dL
   182 K/uL
   176 mg/dL
   0.6 mg/dL
   25 mEq/L
   5.1 mEq/L
   7 mg/dL
   116 mEq/L
   149 mEq/L
   27.8 %
   18.7 K/uL
        [image002.jpg]
                            [**2132-11-15**]  03:22 AM
                            [**2132-11-15**]  06:04 AM
                            [**2132-11-15**]  09:32 AM
                            [**2132-11-15**]  06:41 PM
                            [**2132-11-15**]  09:27 PM
                            [**2132-11-16**]  02:48 AM
                            [**2132-11-16**]  02:57 AM
                            [**2132-11-16**]  03:27 AM
                            [**2132-11-16**]  04:41 AM
                            [**2132-11-16**]  06:40 AM
   WBC
   18.7
   Hct
   27.8
   Plt
   182
   Cr
   0.6
   0.6
   TCO2
   28
   27
   25
   23
   26
   24
   26
   24
   Glucose
   130
   176
   Other labs: PT / PTT / INR:15.1/40.4/1.3, ALT / AST:39/79, Alk Phos / T
   Bili:171/2.3, Differential-Neuts:80.7 %, Band:0.0 %, Lymph:13.0 %,
   Mono:4.9 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL,
   LDH:323 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   40 yo female with history of cirrhosis now with progressive weakness,
   malnutrition, now with obtubation/encephalopathy, unexplained severe
   respiratory alkalosis
   1)Respiratory Failure: Her metabolic alkalosis has actually reversed,
   though this may be ominous for new neurologic injury given quick
   change.  RSBI 98.  Mental staus/neurologic status is main bar to
   extubation at this point
   2)Seizure Disorder- Cont Keppra
   3)Altered Mental Status/Encephalopathy: Given change in respiratory
   drive, rapid increase in U/O, and non-reactive pupils --> will get
   non-contrast head CT.  Cont nutritional supplementation
   4) Hypernatremia: FH20 boluses
   Remainder of iisues per ICU team
   ICU Care
   Nutrition:
   Replete ([**2-8**]) - [**2132-11-16**] 06:50 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-11-11**] 11:00 AM
   Arterial Line - [**2132-11-11**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill
   ------ Protected Section ------
   Unfortunately, head CT shows evidence of devastating neurologic
   injury.  Preliminary read
Global cerebral ischemia with marked
   hypodense appearance of the occipital lobes. Obliteration of the
   extra-axial spaces consistent with uncal herniation and probable
   downward transtentorial herniation.
  Consulted both neurosurgery and
   neurology who both felt that this injury is global and that brain death
   is likely.  No brain stem reflexes on neurology team
s initial brain
   death exam.  While had been spontaneously breathing when sent to CT,
   she does not appear to be currently.  It is unclear what acute event
   precipitated this global edema and swelling.  Mrs. [**Known lastname 8573**]
s family has
   been informed and has now gathered at the bedside.  I will meet with
   them along with neurology team and social work to further address their
   questions.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2132-11-16**] 13:29 ------
   Met with several family membersearlier today  along with the attending
   neurologist and hepatology fellow.  We explained the findings on CT
   scan to them as a group and informed them of the extrememly poor
   neurologic prognosis.  We will repeat brain death examination tomorrow
   morning and apnea testing.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2132-11-16**] 07:32 PM ------

2132-11-17 08:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**11-16**]
   -in AM CT showed diffuse cerebral edema consistent most likely with cx
   of hepatic encephalopathy; ? hypoxic etiology given drop-off in minute
   ventilation the night prior; very poor prognosis, near brain death,
   family informed and very distraught, wanted continued aggressive care;
   -urine output dramatically increased in AM with Na shooting up to 169
   -given 1/2 NS with free water through NG tube for Na, resolved to 148
   -hypotensive so was started on pressors + given normal saline boluses
   -neuro will see her AM on [**11-17**] for brain death evaluation
   Allergies:
   Codeine
   Abdominal pain;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Morphine
   Abdominal pain;
   Last dose of Antibiotics:
   Ampicillin - [**2132-11-17**] 04:06 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-11-17**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 83 (66 - 104) bpm
   BP: 128/77(101) {77/43(54) - 155/84(111)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 85 kg
   Height: 69 Inch
             Total In:
                                                                  6,241 mL
                                                                  3,720 mL
   PO:
             TF:
                                                                    576 mL
   IVF:
                                                                  4,705 mL
                                                                  3,220 mL
   Blood products:
   Total out:
                                                                  8,790 mL
                                                                  1,665 mL
   Urine:
                                                                  8,790 mL
                                                                  1,665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,549 mL
                                                                  2,055 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 98
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/32/144/24/1
   Ve: 9.7 L/min
   PaO2 / FiO2: 411
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   7.2 g/dL
   105 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   7 mg/dL
   133 mEq/L
   163 mEq/L
   22.7 %
   13.4 K/uL
        [image002.jpg]
                            [**2132-11-15**]  09:27 PM
                            [**2132-11-16**]  02:48 AM
                            [**2132-11-16**]  02:57 AM
                            [**2132-11-16**]  03:27 AM
                            [**2132-11-16**]  04:41 AM
                            [**2132-11-16**]  06:40 AM
                            [**2132-11-16**]  09:33 AM
                            [**2132-11-16**]  03:06 PM
                            [**2132-11-16**]  11:57 PM
                            [**2132-11-17**]  03:08 AM
   WBC
   18.7
   13.4
   Hct
   27.8
   22.7
   Plt
   182
   143
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   23
   26
   24
   26
   24
   25
   Glucose
   176
   115
   119
   105
   Other labs: PT / PTT / INR:15.1/40.4/1.3, ALT / AST:39/79, Alk Phos / T
   Bili:171/2.3, Differential-Neuts:80.7 %, Band:0.0 %, Lymph:13.0 %,
   Mono:4.9 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL,
   LDH:323 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 8573**] is a 40 YO F with history of NASH cirrhosis, s/p Roux en Y
   gastric bypass in [**2126**], recent alcoholic hepatitis/pancreatitis, recent
   admission [**9-1**] -[**9-8**] for severe malnutrition/vitamin deficiency thoght
   [**3-10**] periphearl neuropathy who was readmitted to [**Doctor Last Name **]-[**Doctor Last Name **] with c/o
   progressive weakness and falls at home who developed seizures and
   unresponsiveness.
   .
   1) Diffuse cerebral edema - Unclear what caused it but seems to be
   associated with acute drop in minute ventilation with pH becoming
   acidotic.  Unclear whether this was the precipitant or associated with
   the event that led to the edema.  Given her hx of hepatic
   encepalopathy, its possible that she developed increased ICP secondary
   to encephalopathy leading to her edema with the resulting mass shift
   seen on imaging.  No evidence for [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 6003**] reflex.  Also possible
   that decreased minute ventilation due to unknown cause precipitated an
   acidotic state that precipitated the edema.    Regardless of etiology,
   prognosis is poor, with loss of pupillary response, respiratory
   failure, and significantly increasing UOP probably secondary to a
   central diabetes insipidus.
   -neurology seeing her this AM for prognosis
   -family informed of plan yesterday, they wanted to continue care; need
   to touch base with family today
   -D/cd all medications except for pressor support and keppra for seizure
   prophylaxis
   2) Access: PICC placed [**11-12**], Aline, PIV
   3) Code: FULL CODE
   4) Communication: Faily Spokesperson/first contact [**Name (NI) **] [**Name (NI) 8650**]
   [**Telephone/Fax (1) 8651**]; Decision makers Husband and Grandmother
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2132-11-11**] 11:00 AM
   Arterial Line - [**2132-11-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-11-17 11:42:00 Physician Attending Progress Note
Chief Complaint: Severe neurologic injury, Respiratory Failure, Liver
   failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 hr brain death testing and apnea testing to be done today
   24 Hour Events:
   Yesterday's events as detailed
   Overnight - precipitous rise in sodium, fH230 repletion increased.
   Also, hypotensive with start of pressors.
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Codeine
   Abdominal pain;
   Sulfa (Sulfonamide Antibiotics)
   Hives;
   Morphine
   Abdominal pain;
   Last dose of Antibiotics:
   Ampicillin - [**2132-11-17**] 09:59 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-11-17**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 82 (66 - 103) bpm
   BP: 135/81(105) {77/43(54) - 141/84(109)} mmHg
   RR: 24 (24 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 85 kg
   Height: 69 Inch
             Total In:
                                                                  6,241 mL
                                                                  4,724 mL
   PO:
             TF:
                                                                    576 mL
   IVF:
                                                                  4,705 mL
                                                                  3,974 mL
   Blood products:
   Total out:
                                                                  8,790 mL
                                                                  1,845 mL
   Urine:
                                                                  8,790 mL
                                                                  1,845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,549 mL
                                                                  2,879 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   143 K/uL
   105 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   7 mg/dL
   133 mEq/L
   163 mEq/L
   22.7 %
   13.4 K/uL
        [image002.jpg]
                            [**2132-11-15**]  09:27 PM
                            [**2132-11-16**]  02:48 AM
                            [**2132-11-16**]  02:57 AM
                            [**2132-11-16**]  03:27 AM
                            [**2132-11-16**]  04:41 AM
                            [**2132-11-16**]  06:40 AM
                            [**2132-11-16**]  09:33 AM
                            [**2132-11-16**]  03:06 PM
                            [**2132-11-16**]  11:57 PM
                            [**2132-11-17**]  03:08 AM
   WBC
   18.7
   13.4
   Hct
   27.8
   22.7
   Plt
   182
   143
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   23
   26
   24
   26
   24
   25
   Glucose
   176
   115
   119
   105
   Other labs: PT / PTT / INR:15.1/40.4/1.3, ALT / AST:39/79, Alk Phos / T
   Bili:171/2.3, Differential-Neuts:80.7 %, Band:0.0 %, Lymph:13.0 %,
   Mono:4.9 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL,
   LDH:323 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   40 yo female with history of cirrhosis now with progressive weakness,
   malnutrition, obtubation/encephalopathy, now s/p devastating neurologic
   injury, brain edema/herniation.
   Dr. [**Last Name (STitle) 985**], attending neurologist, completed the 24 hour brain death
   testing and confirmed that Mrs. [**Known lastname 8573**] has an exam consistent with
   brain death.  He and I were then both present for apnea testing.
   Baseline pCO2 was 40 and rose to 67 after 10 minutes of apnea performed
   according to the [**Hospital1 1**] brain death testing protocol/guidelines.  Time
   of death was established as 12:51PM.  The brain death checklist was
   completed by Dr. [**Last Name (STitle) 985**] and placed it in the medical record.  Dr.
   [**Last Name (STitle) 985**] and I then informed the family about the findings and that she
   was now legally deceased.  They had appropriate questions but were
   accepting.  Mrs. [**Known lastname 8573**]
s two sons had a brief altercation during our
   meeting that they resolved without need for intervention by [**Hospital1 1**]
   Public Safety.  The family is now present at the bedside as mechanical
   ventilation is withdrawn.  Mrs. [**Known lastname 8573**]
s father, who is the primary
   decision maker, has requested an autopsy.  Mrs. [**Known lastname 8573**]
s husband and
   the remainder of the family are also in agreement.
   Mrs. [**Known lastname 8573**]
s father would also like to further discuss at some point
   in the near future his daughter
s clinical course.  I will have Patient
   Relations contact him to help navigate this discussion.
   ICU Care
   Lines:
   PICC Line - [**2132-11-11**] 11:00 AM
   Arterial Line - [**2132-11-11**] 04:00 PM
   Communication:  Met with family, including Mrs. [**Known lastname 8573**]
s father at her
   bedside
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill